US04061761
16 g of 3-tert.-butylsulfamoyl-4-chlorobenzoyl chloride were reacted as prescribed in Example 66b) with a solution of diazomethane in diisopropyl ether, sparingly soluble 3'-tert.-butylsulfamoyl-4'-chlorodiazoacetophenone being separated. The crystals were filtered and converted as prescribed in Example 66b) with concentrated HCl in diethyleneglycol dimethyl ether to yield 3'-tert.-butyl-2,4'-dichloroacetophenone. Colorless crystals, melting point: 159° C.

reactant | 3-tert.-butylsulfamoyl-4-chlorobenzoyl chloride | 16 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1Cl | C11H13Cl2NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 3'-tert.-butylsulfamoyl-4'-chlorodiazoacetophenone | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1Cl)C(C=[N+]=[N-])=O | C12H14ClN3O3S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 3'-tert.-butyl-2,4'-dichloroacetophenone | C(C)(C)(C)C=1C=C(C=CC1Cl)C(CCl)=O | C12H14Cl2O
